US06326369B1
Ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-1-oxo-2-indancarboxylate
A hexane solution of n-butyl lithium (1.68 M, 11.3 ml, 19.0 mmols) was dropwise added to a THF (100 ml) solution of ethyl 2-(4-benzyloxyphenyl)-3-(6-bromo-2,3,4,5-tetramethoxyphenyl)-2-ethoxycarbonylpropionate (10.0 g, 15.8 mmols), under a nitrogen stream at −90° C or lower. The reaction mixture was stirred for 30 minutes, and a THF (10 ml) solution of acetic acid (1.86 g, 31.6 mmols) was dropwise added thereto still at −90° C. or lower. The reaction mixture was allowed to warm to room temperature, and diluted with diethyl ether. The organic layer was washed with a saturated aqueous sodium bicarbonate solution, water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=10:1 to 5:1) to obtain the entitled compound (3.78 g) as an oil.

reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 19.0 mmols, 1.68 M, 11.3 ml | C(CCC)[Li]
reactant | ethyl 2-(4-benzyloxyphenyl)-3-(6-bromo-2,3,4,5-tetramethoxyphenyl)-2-ethoxycarbonylpropionate | 15.8 mmols, 10.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)OCC)(CC1=C(C(=C(C(=C1Br)OC)OC)OC)OC)C(=O)OCC | C31H35BrO9
reactant | acetic acid | 31.6 mmols, 1.86 g | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-1-oxo-2-indancarboxylate | 3.78 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(C(C2=C(C(=C(C(=C2C1)OC)OC)OC)OC)=O)C(=O)OCC | C29H30O8
